US06503949B1
Step 2: trans-4-{[N-(tert-Butoxycarbonyl)-N-(4-tert-butylcyclohexyl)amino]methyl}benzoic Acid Methyl Ester
trans-4-[(4-tert-Butylcyclohexylamino)methyl]benzoic acid methyl ester (20.0 g, 65.9 mmol) was dissolved in THF (300 mL). Di-tert-butylpyrocarbonate (16.0 g, 73.4 mmol) and diisopropylethylamine (12.0 g, 92.9 mmol) was added and the clear solution stirred overnight at ambient temperature. Solvent was removed by rotary evaporation.

reactant | trans-4-[(4-tert-Butylcyclohexylamino)methyl]benzoic acid methyl ester | 65.9 mmol, 20.0 g | COC(C1=CC=C(C=C1)CN[C@@H]1CC[C@H](CC1)C(C)(C)C)=O | C19H29NO2
reactant | Di-tert-butylpyrocarbonate | 73.4 mmol, 16.0 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | diisopropylethylamine | 92.9 mmol, 12.0 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | trans-4-{[N-(tert-Butoxycarbonyl)-N-(4-tert-butylcyclohexyl)amino]methyl}benzoic Acid Methyl Ester | COC(C1=CC=C(C=C1)CN([C@@H]1CC[C@H](CC1)C(C)(C)C)C(=O)OC(C)(C)C)=O | C24H37NO4
